US07985769B2
A solution of 3-[(2,4-Dichloro-phenyl)-isopropyl-carbamoyl]-5-phenyl-thiophene-2-carboxylic acid tert-butyl ester (37 mg, 0.08 mmol) in CH2Cl2 (0.2 ml) at room temperature, under nitrogen was treated with trifluoroacetic acid (0.8 ml). After 1 h the reaction was concentrated the residue was taken into EtOAc and washed sequentially with 2N HCl (2×15 ml), water, brine dried and evaporated to a foam (33 mg). The foam was redissolved in EtOAc and above acidic wash was repeated to yield 27 mg (84%) of 3-[(2,4-Dichloro-phenyl)-isopropyl-carbamoyl]-5-phenyl-thiophene-2-carboxylic acid compound as pale brown foam. NMR 1H: (CD3OD; 400 MHz) 7.57-7.55 (m, 2H); 7.49-7.36 (m, 6H), 7.30-7.27 (m, 1H); 4.89 (quint, J=6.73 Hz, 1H); 1.42 (d, J=6.73 Hz, 3H); 1.12 (d, J=6.73 Hz, 3H).

reactant | 3-[(2,4-Dichloro-phenyl)-isopropyl-carbamoyl]-5-phenyl-thiophene-2-carboxylic acid tert-butyl ester | 0.08 mmol, 37 mg | C(C)(C)(C)OC(=O)C=1SC(=CC1C(N(C(C)C)C1=C(C=C(C=C1)Cl)Cl)=O)C1=CC=CC=C1 | C25H25Cl2NO3S
reactant | trifluoroacetic acid | 0.8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 0.2 ml | C(Cl)Cl | CH2Cl2
product | 3-[(2,4-Dichloro-phenyl)-isopropyl-carbamoyl]-5-phenyl-thiophene-2-carboxylic acid | 27 mg, 84% | ClC1=C(C=CC(=C1)Cl)N(C(=O)C1=C(SC(=C1)C1=CC=CC=C1)C(=O)O)C(C)C | C21H17Cl2NO3S
